US06498169B1
Synthesis of 4-[N-(4-methoxyphenyl)-N-[3-(3,4,5-trimethoxypheny)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine dihydrochloride
4-(p-Anisidino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (139 mg) and 3-(3,4,5-trimethoxyphenyl)benzyl chloride (114 mg) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a dihydrochloride which gave the title compound as yellow powder.

reactant | 4-(p-Anisidino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 139 mg | COC1=CC=C(C=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O4
reactant | 3-(3,4,5-trimethoxyphenyl)benzyl chloride | 114 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 4-[N-(4-methoxyphenyl)-N-[3-(3,4,5-trimethoxypheny)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N(CC1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C43H49N3O7.2ClH/c1-47-36-13-11-34(12-14-36)46(28-29-9-8-10-31(21-29)32-23-38(48-2)42(52-6)39(24-32)49-3)35-16-19-45(20-17-35)27-30-15-18-44-37(22-30)33-25-40(50-4)43(53-7)41(26-33)51-5;;/h8-15,18,21-26,35H,16-17,19-20,27-28H2,1-7H3;2*1H
